US08445507B2
A solution of 2-hydroxy-3-(trifluoromethyl)pyridine C in a mixture of N-iodosuccinimide (NIS), acetonitrile, and dimethylformamide (DMF) is heated at 80° C. for 2 hours to produce 2-hydroxy-3-trifluoromethyl-5-(iodo)pyridine I (greater than 80% yield). The 2-hydroxy-3-trifluoromethyl-5-(iodo)pyridine I is then mixed with POCl3 in DMF and heated to 130° C. in a microwave for 20 minutes to produce 2-chloro-3-trifluoromethyl-5-(iodo)pyridine J (yield of 50 to 55%). The 2-chloro-3-trifluoromethyl-5-(iodo)pyridine K is reacted in a solution of pMBnNH2, palladium(II) acetate, 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP), triethylamine, and cesium carbonate in toluene to produce 5-((4-methoxyphenyl))methylamino)-2-chloro-3-(trifluoromethyl)pyridine K (yield of 40%). The 5-((4-methoxyphenyl))methylamino)-2-chloro-3-(trifluoromethyl)pyridine K is reacted in a solution of zinc cyanide, tris(dibenzylideneacetone)dipalladium (Pd2(dba)3), and 1,1′-bis (diphenylphosphino)ferrocene (dppf) in DMF to provide 5-(4-methoxybenzylamine)-2-cyano-3-(trifluoromethyl)pyridine K (yield of 92%). The 5-(4-methoxybenzylamine)-2-cyano-3-(trifluoromethyl)pyridine K is reacted in a solution of dichloromethane and trifluoroacetic acid to provide 2-cyano-3-trifluoromethyl-5-(amino)pyridine H (yield greater than 95%). The 2-cyano-3-trifluoromethyl-5-(amino)pyridine H is reacted with thiophosgene in water at 25° C. for 2 hours to provide 5-isothiocyanato-3-(trifluoromethyl)pyridine-2-carbonitrile A (yield of 74% to 95%).

reactant | 2-cyano-3-trifluoromethyl-5-(amino)pyridine | C(#N)C1=NC=C(C=C1C(F)(F)F)N | C7H4F3N3
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | water | O | H2O
product | 5-isothiocyanato-3-(trifluoromethyl)pyridine-2-carbonitrile | yield of 74% to 95% | N(=C=S)C=1C=C(C(=NC1)C#N)C(F)(F)F | C8H2F3N3S
